US04665206
Thieno[2,3-f]-1,3-benzodioxole-6-carbonitrile
A mixture of powdered potassium hydroxide (12.36 g) and dimethylsulphoxide (100 ml) was stirred at room temperature for 5 min. then treated with 5,6 -dihydroxy-benzo[b]thiophene-2-carbonitrile (5.26 g). After 1 minute di-iodomethane (4.4 ml) was added and the suspension was stirred at room temperature for 75 minutes, then more di-iodomethane (2.2 ml) was added. After a further 30 minutes the reaction was poured into water (500 ml) and extracted with ethyl acetate (2×100 ml). The organic extracts were combined, washed with 2MHCl and saturated brine, then dried and evaporated to give a brown crystalline residue. The crude product was suspended in hot dichloromethane (200 ml), filtered, and the filtrate was passed through a column of silica gel (0.2-0.5 mm, Merck, 25 g). The appropriate fractions were combined and evaporated to dryness to give a white solid (3.4 g). Crystallisation from acetone/ether afforded pure thieno[2,3-f]-1,3-benzodioxole-6-carbonitrile, m.p. 179°-180° C.

reactant | potassium hydroxide | 12.36 g | [OH-].[K+]
reactant | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
reactant | 5,6 -dihydroxy-benzo[b]thiophene-2-carbonitrile | 5.26 g | OC1=CC2=C(SC(=C2)C#N)C=C1O | C9H5NO2S
reactant | di-iodomethane | 4.4 ml | ICI | CH2I2
reactant | di-iodomethane | 2.2 ml | ICI | CH2I2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | Thieno[2,3-f]-1,3-benzodioxole-6-carbonitrile | 3.4 g | O1COC2=C1C=C1C(=C2)SC(=C1)C#N | C10H5NO2S
